US05516774
pyrrolo[1,2-a][1,4]diazepine
To a solution of 1.0 mmol of 9,10-dihydro-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine in 10 ml of methylene chloride under argon is added 1.5 mmol of triethylamine followed by ice bath cooling. A solution of 1.1 mmol of 4-nitrobenzoyl chloride in 5 ml of methylene chloride is added dropwise. Following complete addition, the ice bath is removed and the reaction mixture is stirred at room temperature for 2 hours. The volatiles are removed in vacuo to give a residue which is dissolved in ethyl acetate. The solution is washed with water, 1N HCl, NaHCO3, and brine. The reaction mixture is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography on silica gel to give desired product as a solid.

reactant | 9,10-dihydro-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine | 1.0 mmol | O1C=CC2=C1NCC=1N(C2)C=CC1 | C10H10N2O
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 1.1 mmol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | pyrrolo[1,2-a][1,4]diazepine | C=1C=2N(CC=CN1)C=CC2 | C8H8N2
